US07049310B2
a) N-Methyl-N-(1,2,7-trimethyl-1H-indol-3-ylmethyl)acrylamide
To a cold solution (ice bath) of 3-(methylaminomethyl)-1,2,7-trimethyl-1H-indole (570 mg, 2.8 mmole) in dry CH2Cl2 (24 mL) was added dry Et3N (0.25 mL, 2.9 mmole). The reaction was stirred in the cold under argon for 2 h then was poured into H2O (40 mL). The layers were separated, and the organic layer was washed with brine, dried (MgSO4), filtered, and concentrated. The title compound (0.7 g, 97%) was obtained as a light orange solid: MS (ES) m/e 257.2 (M+H)+.

reactant | 3-(methylaminomethyl)-1,2,7-trimethyl-1H-indole | 2.8 mmole, 570 mg | CNCC1=C(N(C2=C(C=CC=C12)C)C)C | C13H18N2
reactant | Et3N | 2.9 mmole, 0.25 mL | CCN(CC)CC | C6H15N
reactant | H2O | 40 mL | O | H2O
reactant | CH2Cl2 | 24 mL | C(Cl)Cl | CH2Cl2
product | N-Methyl-N-(1,2,7-trimethyl-1H-indol-3-ylmethyl)acrylamide | 0.7 g, 97% | CN(C(C=C)=O)CC1=C(N(C2=C(C=CC=C12)C)C)C | C16H20N2O
